US09399630B2
According to the '614 patent, the preparation of 5-(1-pipearzinyl)benzofuran-2-carboxamide is carried out in four steps starting from ethyl 5-aminobenzofuran-2-carboxylate. According to first step, ethyl 5-(1-piperazinyl)benzofuran-2-carboxylate is prepared by reacting ethyl 5-aminobenzofuran-2-carboxylate with N,N-bis(2-chloroethyl)amine in dichloromethane to produce a reaction mass, followed by customary work-up using a solvent system (isopropanol/water 95:5). According to second step, the ethyl 5-(1-piperazinyl)benzofuran-2-carboxylate is subjected to BOC protection by reacting with di-tert-butyl dicarbonate in tetrahydrofuran to produce ethyl 5-(4-tert-butoxycarbonyl-1-piperazinyl)benzofuran-2-caboxylate. In third step, the ethyl 5-(4-tert-butoxycarbonyl-1-piperazinyl)benzofuran-2-caboxylate is reacted with formamide in the presence of sodium alkoxide in N-methylpyrrolidone to produce 5-(4-tert-butoxycarbonyl-1-piperazinyl)benzofuran-2-carboxamide. In fourth step, the 5-(4-tert-butoxycarbonyl-1-piperazinyl)benzofuran-2-carboxamide is then deprotected with methanolic HCl to produce the 5-(1-pipearzinyl)benzofuran-2-carboxamide.

reactant | ethyl 5-aminobenzofuran-2-carboxylate | NC=1C=CC2=C(C=C(O2)C(=O)OCC)C1 | C11H11NO3
reactant | ethyl 5-(1-piperazinyl)benzofuran-2-carboxylate | N1(CCNCC1)C=1C=CC2=C(C=C(O2)C(=O)OCC)C1 | C15H18N2O3
reactant | N,N-bis(2-chloroethyl)amine | ClCCNCCCl | C4H9Cl2N
reactant | di-tert-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | isopropanol water | C(C)(C)O.O
product | ethyl 5-(4-tert-butoxycarbonyl-1-piperazinyl)benzofuran-2-caboxylate | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=CC2=C(C=C(O2)C(=O)OCC)C1 | C20H26N2O5
